US08669229B2
7-Chloro-1-(2-methyl-4-(2-methylbenzamido)benzoyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl 4-chlorobutyrate (0.5 g) was dissolved in acetonitrile (10 ml). 1-Acetylpiperazine (0.35 g), sodium iodide (0.41 g), and sodium carbonate (0.19 g) were added to the solution, and the mixture was heated under reflux for 19 hours. The reactant was poured into water, and the mixture was extracted with ethyl acetate, washed with water, dried over sodium carbonate. After filtration and concentration under reduced pressure, the residue was purified by silica gel column chromatography (dichloromethane:methanol=100:1→100:10) to obtain 0.3 g of 7-chloro-1-(2-methyl-4-(2-methylbenzamido)benzoyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl 4-(4-acetylpiperazin-1-yl)butyrate as colorless oil.

reactant | 7-Chloro-1-(2-methyl-4-(2-methylbenzamido)benzoyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl 4-chlorobutyrate | 0.5 g | ClCCCC(=O)OC1C2=C(N(CCC1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C)=O)C=CC(=C2)Cl | C30H30Cl2N2O4
reactant | 1-Acetylpiperazine | 0.35 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | sodium iodide | 0.41 g | [I-].[Na+]
reactant | sodium carbonate | 0.19 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 7-chloro-1-(2-methyl-4-(2-methylbenzamido)benzoyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl 4-(4-acetylpiperazin-1-yl)butyrate | 0.3 g | C(C)(=O)N1CCN(CC1)CCCC(=O)OC1C2=C(N(CCC1)C(C1=C(C=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C)=O)C=CC(=C2)Cl | C36H41ClN4O5
